Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm unhappy about my situation."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
"Mr. ___ is a ___ year old male who was brought to 
the emergency department by ambulance after his wife called ___ 
because he scared her to the point where she locked herself and 
her 3-month-old baby into a room.  She also shared with the 
police that the patient had written a suicide note in the recent 
past and that last month she had been cooking for him in ___ 
___ after he just left the house without shoes.  She found him 
sitting in a ridge 3 miles away from the house.

The patient is not unhappy about being here but states that this 
is not necessary, is slightly annoyed.  He tells me that he and 
his wife have a very difficult marriage.  They have been married 
___ years and has had a lot of arguments from the beginning of the 
relationship.  He is not able to have any insight into what he 
might be contributing to her problems, he states that she does 
not fully engage with him, keeps a distance. He tells me that he 
has always been somewhat different, feels he does not really fit 
in.  He had difficulties making friends, says that he has 2 
friends from college.  He was bullied in middle school, became 
depressed in high school, started cutting himself. At that time 
he also wrote a note that was interpreted as a suicide note and 
he was sent to therapy.  Over the years he has been isolating 
himself more and more, avoids groups, struggles with family 
events.  Is fixated on his wife is his only support. He states 
that if he was to lose her he would attempt suicide.

The patient also describes very intense phobia of spiders that 
causes him to have significant nightmares followed with tactile 
experiences of spiders on his head.  He also has a history of 
significant alcohol use disorder during his ___, says it has 
gotten better.  He states that he has not had a drink since last 
year.  Collateral information clarifies that he has got 
intoxicated in ___ of this year."

In the ED, there were no acute behavioral or medical issues and 
no medications were given.

On admission interview, patient reports things have been 
difficult with his wife and endorses having had thoughts of 
hurting himself. Denies current suicidal or violent ideation. 
Contract for safety. Currently feeling unhappy about being 
admitted and feels anxious about being here but acknowledges it 
is necessary. No significant psychiatric or medical history and 
not taking any medications or actively using substances.

COLLATERAL:
Per conversation with patient's mother ___ 
(___), as documented in Dr. ___ note 
___: Mother reports that patient has been depressed for 
"many, many years". He once saw a therapist in high school for 
depression, but never discussed his treatment with his family. 
He reportedly experienced a lot of bullying as a child. Mother 
does not believe he has ever been on medication. He has never 
been hospitalized, but has thus far been unable to maintain 
stable employment since graduating college, which mother 
attributes to his untreated depression. She says that he is 
reluctant to seek help and is difficult to engage in 
conversations about his mental health issues. Patient reportedly 
has a severe temper and is "frightening" when he is angry. He 
has thrown objects and broken dishes while angry and allegedly 
once accidentally hit his wife with an item that he threw.

Mother reports that ___ weeks ago, patient was visiting with his 
wife's family in ___, ___. During this visit, the patient 
apparently had some anger outbursts which alienated him from his 
wife's family. At some point during this time, wife and her 
family allegedly alluded to wife leaving the patient and taking 
their infant daughter with her. Patient wrote a long, 
disorganized suicide note and disappeared for some time before 
family members found him at a ___. He was reportedly barefoot 
and had left behind his keys, wallet, etc.

Patient has never harmed himself that mother is aware of and, 
aside from accidentally hitting his wife with an object while 
enraged, has never harmed others to her knowledge. She reports 
that family members have attempted multiple times to convince 
him to seek treatment for his depression and his anger, but that 
each time these topics are broached, the patient becomes angry 
and impossible to engage.

Mother lives in a unit above the patient and his wife. She says 
that the two were having an argument prior to presentation and 
patient's wife became afraid of him and locked herself in the 
bedroom. Mother believes that patient's wife may be planning to 
move back to ___ with the baby, after the severity of this 
incident and the patient's recent suicide note. She says she is 
gravely concerned that the patient will completely decompensate 
if he loses his daughter.

Mother reports she is amenable to "anything that will get him 
help", including inpatient hospitalization if this becomes 
necessary. She expressed doubt that the patient will ever be 
able to seek help on his own."

Per conversation with patient's wife ___ (___), as 
documented in Dr. ___ ___ ED Initial Psychiatry Consult 
note:"She reports her husband scares her.  This has been going 
on for several years but became worse during the pregnancy.  She 
states she has an anger.  He throws things such as dishes.  He 
even threw boiling water at her, she got injured.  Has pushed 
her before.  She describes how he constantly insults her, calls 
her names, sees her as a responsible person for his failure.  
She states that he did get intoxicated in ___.  She also 
describes how found a suicide note, found him sitting on a ridge 
3 miles away from the house, no shoes on.  She says that she 
really wants to help him, has tried everything but it does not 
work.  What worries her is that he can turn it on and off, feels 
that there is a malicious intent in his behavior.  She has been 
reluctant to share a lot with her family as they are worried 
about her."
 
Past Medical History:
Denies
 
Social History:
___
Family History:
Denies formal family psychiatric history or family history of 
suicide attempts
-Father has "difficult personality"
 
Physical Exam:
VITAL SIGNS:
T 98.7, HR 87, BP 129/80, RR 20, SpO2 100% on RA

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal rapid alternating hand movements.
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: intact to interview, able to spell "WORLD" backwards
-Orientation: oriented to person, place, time, situation.
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 3 ___ 
grossly intact
-Fund of knowledge: Consistent with education
-Abstraction: apple/orange="fruit"
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: male appearing stated age, thin, pale, wearing 
hospital gown
-Behavior: sitting in chair, diminished eye contact, psychomotor 
retardation present
-Attitude: cooperative, engaged
-Mood/Affect: "unhappy", anxious, restricted range, not tearful, 
not irritable
-Speech: normal rate, volume, amount, prosody
-Thought process: linear, coherent, goal-oriented, no loose 
associations
-Thought content: denies current SI, denies HI, no evidence of 
paranoid delusions, no evidence of obsessions/compulsions, 
denies AVH, not appearing to be attending to internal stimuli
-Insight/Judgment: poor, poor
 
Pertinent Results:
___ 03:53PM URINE  HOURS-RANDOM
___ 03:53PM URINE  HOURS-RANDOM
___ 03:53PM URINE  HOURS-RANDOM
___ 03:53PM URINE  UHOLD-HOLD
___ 03:53PM URINE  GR HOLD-HOLD
___ 03:53PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:25PM   GLUCOSE-75 UREA N-14 CREAT-0.9 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 12:25PM   estGFR-Using this
___ 12:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:25PM   WBC-7.5 RBC-4.99 HGB-15.0 HCT-45.4 MCV-91 
MCH-30.1 MCHC-33.0 RDW-11.5 RDWSD-38.3
___ 12:25PM   NEUTS-79.2* LYMPHS-14.6* MONOS-5.1 EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-5.92 AbsLymp-1.09* AbsMono-0.38 
AbsEos-0.04 AbsBaso-0.04
___ 12:25PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, Mr. ___  signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Mr. ___ was also placed on 
15 minute checks status on admission and remained on that level 
of observation throughout while being unit restricted.
. 
2. PSYCHIATRIC:
#Major depressive disorder, r/o Intermittent explosive disorder
Patient was admitted for symptoms consistent with depression as 
well as suicidal ideation with plan to jump off of a bridge.  He 
engaged readily with the team demonstrating a capability to 
reflect upon the ways in which his depression and anger had 
detrimentally influenced his relationship with his wife and 
family. Escitalopram 10 mg PO daily and lamictal 25 mg PO daily 
were initiated for depression and mood stability as well as 
propranolol 20 mg PO BID for aggression with good effect.  Over 
the course of his hospitalization he became increasingly 
euthymic and goal- and future-oriented, denying suicidality, 
endorsing desire to pursue treatment so that he might continue 
to enjoy a relationship with his young daughter.  Family 
meetings were held with both the patient's sister and his wife 
prior to discharge, each individual denying safety concerns.
.
3. SUBSTANCE USE DISORDER
# Alcohol use disorder, in early remission
Patient was counseled on the importance of abstinence from 
alcohol and endorsed a desire to reduce his consumption.
.
4. MEDICAL
No acute issues
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was noted to be visible and social with peers and 
staff, participating actively in groups and milieu therapies.  
The patient was visited by his wife and sister prior to 
discharge, as above, to engage in discharge planning.  Both 
showed support for his treatment and recovery with plan that the 
patient would temporarily reside with his sister while attending 
___.
.
RISK STRATIFICATION:
-Static Risk Factors: recent suicide note/gesture, history of 
substance abuse, history of self-injurious behavior, history of 
violence, male gender, limited social support, unemployment
-Modifiable Risk Factors: suicidal ideation, unpredictable 
behavior, poorly controlled mental illness, no established 
outpatient providers, social withdrawal, hopelessness, limited 
coping skills
-Protective Factors: married, no prior suicide attempts, no 
access to lethal weapons, reality-testing ability, 
future-oriented, no suicidal ideation
.
Patient was admitted with depression and suicidal ideation which 
was addressed through individual and group therapies as well as 
initiation of psychotropic medications with improvement in his 
mood.  Given limited social support and difficult family 
dynamics contributing to his presentation family meetings were 
held with both his sister and wife in order to facilitate 
involvement in his treatment.  Having not previously had access 
to outpatient psychiatric services patient was referred to a PHP 
as well as outpatient providers on discharge.   Based on the 
totality of our assessment at this time these interventions, 
which address his modifiable risk factors, are thought 
sufficient to mitigate his static risk factors with the result 
that the patient is thought no longer to meet ___ 
criteria for inpatient hospitalization.  He currently 
demonstrates preserved capacity to engage in discussions around 
safety planning, is goal- and future-oriented, and is 
appropriate for discharge to outpatient level of care. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 20 mg PO DAILY 
2.  LamoTRIgine 25 mg PO DAILY 
(increase to 50 mg PO daily on ___ increase to 100 mg PO daily 
on ___
3.  Propranolol 20 mg PO/NG BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Major depressive disorder, severe (r/o social anxiety disorder)
-Alcohol use disorder, in early remission
-Arachnophobia

 
Discharge Condition:
VS: 97.6 | BP 121 / 74 | HR 65 | RR 16 | SpO2 100% RA
A/B: Appears stated age, dressed casually with good hygiene and
grooming, pleasant on examination, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody 
M: ''Good"
A: Euthymic, bright, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: improving/improving 
Ambulatory Status: Ambulatory - As tolerated

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___